US07846959B2
To acetic anhydride (20 mL) was added 2-chloro-4,5-difluoroaniline (4.7 g, 29 mmol), and the resulting solution was stirred at 100° C. for 1 h. After cooling to rt, the mixture was stored in a freezer overnight. A white crystalline precipitate formed, and it was collected by filtration. Residual acetic anhydride was removed in vacuo. The desired N-(2-chloro-4,5-difluorophenyl)acetamide (4.69 g, 22.8 mmol, 79% yield) was isolated as a white crystalline solid. 1H NMR (400 MHz, CDCl3): 8.38 (dd, 1H), 7.53 (br s, 1H), 7.23 (dd, 1H), 2.25 (s, 3H); MS (EI) for C8H6ClF2NO: 206 (MH+).

reactant | 2-chloro-4,5-difluoroaniline | 29 mmol, 4.7 g | ClC1=C(N)C=C(C(=C1)F)F | C6H4ClF2N
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2-chloro-4,5-difluorophenyl)acetamide | 22.8 mmol, 4.69 g, 79% yield | ClC1=C(C=C(C(=C1)F)F)NC(C)=O | C8H6ClF2NO
